US06291442B1
Anthranilic acid (41.0 g, 300 mmol) is dissolved in 200 mL of water, then 64 mL of HCl is added. The solution is cooled to 0° C. and diazotized with a solution of NaNO2 (22 g, 319 mmol) in 45 mL of water. The diazonium salt solution is stirred at 0° C. for 30 min. and then is kept at 0° C. while it is added dropwise during the course of 2.5 hours to a rapidly stirring, 0° C. solution of thiophenol (34.0 g, 309 mmol) in 300 mL of water containing 60 g (1500 mmol) of NaOH and 3 g of copper powder. Caution is exercised during the addition because of the explosive nature of diazo sulfide which can accumulate during addition. The mixture is stirred at 0° C. for 1 hour, allowed to warm to 25° C. overnight and then heated in a steam bath for 1 hour. The mixture is cooled and the solid is removed by filtration and washed with 200 mL of cold water. The combined filtrates are acidified with concentrated HCl, and the brown precipitate is collected and recrystallized successively with ethanol, ethanol-water (3:2) and benzene-hexane to give 2-carboxydiphenyl sulfide. 2-Carboxydiphenyl sulfide is dissolved in 100 mL of methanol and chilled to 0° C., then poured into a 100 mL of aqueous 0.51 M sodium metaperiodate at 0° C. The mixture is stirred overnight, then the solvent is evaporated. The solid residue is washed with water and recrystallized from ethanol-water to give 2-carboxydiphenyl sulfoxide. Other examples of the synthesis of 2-carboxydiphenyl sulfoxide can be found in the following references: Mayer, F., Chem. Ber. (1909), 42:3047; Weedon, et al., Am. Chem. J. (1905), 33:392-402; Brannigan, et al., J Med. Chem. (1976), 19:798; Livant, Martin, J. Am. Chem. Soc. (1977), 99:5761; Brown, et al., J. Chem. Soc. Perkin Trans. I(1972), 2842; Dhareshwar, Hosangadi, Indian J. Chem. Sec. B (1978), 16:143.

reactant | Anthranilic acid | 300 mmol, 41.0 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | HCl | 64 mL | Cl | ClH
reactant | NaNO2 | 319 mmol, 22 g | N(=O)[O-].[Na+]
reactant | thiophenol | 309 mmol, 34.0 g | C1(=CC=CC=C1)S | C6H6S
reactant | NaOH | [OH-].[Na+]
solvent | water | 200 mL | O | H2O
solvent | water | 45 mL | O | H2O
catalyst | copper | 3 g | [Cu] | Cu
solvent | water | 1500 mmol, 300 mL, 60 g | O | H2O
product | 2-carboxydiphenyl sulfide | C1=CC=C(C=C1)SC2=CC=CC=C2C(=O)O | C13H10O2S
